US04448964
Then, 8.16 g of the 1-benzoyl-4-hydroxypiperidine and 3.53 g of diketene were reacted similarly as in Reference Example 1, and the reaction mixture was concentrated to obtain 12.0 g of almost pure oily acetoacetic acid-N-benzoyl-4-piperidinyl ester on thin layer chromatography. This was used directly in the reaction of Example 3.

reactant | 1-benzoyl-4-hydroxypiperidine | 8.16 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)O | C12H15NO2
reactant | diketene | 3.53 g | C=C1CC(=O)O1 | C4H4O2
product | acetoacetic acid-N-benzoyl-4-piperidinyl ester | C(C1=CC=CC=C1)(=O)N1CCC(CC1)OC(CC(=O)C)=O | C16H19NO4
